US06767916B2
1-[4-Methyl-7-(allyloxy)coumarin-8-yl]-3-phenyl-propen-1-one (See Accompanying Formula Drawing VIB 158)
A solution of KOH 50% (3 ml) is added to an equimolar solution of 4-methyl-7-allyloxy-8-acetylcoumarin (1.93 g, 0.0075 mol) and benzaldehyde (0.8 g, 0.0075 mol) in ethanol 95%; the addition is performed under energetic stirring at room temperature. The reaction is left under stirring for one night and then diluted with water and acidified. The precipitate is separated by filtration and dried under vacuum. The compound is crystallized by methanol to give 1.1 g of product m.p. 136-139° C., 1H-NMR (CDCl3) δ: 2.43 (s, 3H); 4.65 (d, 2H, J=5.1 Hz); 4.25-4.55 (m, 2H); 5.15-5.35 (m, 1H); 6,16 (s, 1H); 6.93 (d, 1H, J=8.9 Hz); 7.03 (d, 1H) J=16 Hz); 7.04-7.15 (m, 3H); 7.15-7.26 (m, 2H); 7.33 (d, 1H, J=16 Hz); 7.64 (d, 1H, J=8.9 Hz).

reactant | KOH | 3 ml | [OH-].[K+]
reactant | 4-methyl-7-allyloxy-8-acetylcoumarin | 0.0075 mol, 1.93 g | CC1=CC(OC2=C(C(=CC=C12)OCC=C)C(C)=O)=O | C15H14O4
reactant | benzaldehyde | 0.0075 mol, 0.8 g | C(C1=CC=CC=C1)=O | C7H6O
solvent | ethanol | C(C)O | C2H6O
solvent | water | O | H2O
product | 1-[4-Methyl-7-(allyloxy)coumarin-8-yl]-3-phenyl-propen-1-one | 1.1 g | CC1=CC(OC2=C(C(=CC=C12)OCC=C)C(C=CC1=CC=CC=C1)=O)=O | C22H18O4
